US04045438
A mixture of p-azidomethylphenylacetyl chloride (1.38 g) and 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (1.38 g) in 250 ml of ethyl acetate was refluxed for 45 minutes. The solvent was removed under vacuum at 35° C. yielding a solid residue which was purified by chromotography using 200 g of silica gel eluting with benzene-acetone to give 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid. M.P. 135°-136° C.

reactant | p-azidomethylphenylacetyl chloride | 1.38 g | N(=[N+]=[N-])CC1=CC=C(C=C1)CC(=O)Cl | C9H8ClN3O
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1.38 g | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC1=CC=C(C=C1)CN=[N+]=[N-])=O)=O)C(=O)O | C19H19N5O6S
